US07132436B2
4,5-Dichloro-N-[4-(2-chlorophenyl)-1,3-thiazol-2-yl]-2-thiophenesulfonamide
The title compound was prepared from 4-(2-chlorophenyl)-1,3-thiazol-2-amine (57 mg) and 2,3-dichlorothiophene-5-sulfonyl chloride (68 mg) as described in the synthetic METHOD B to give a white solid (56.6 mg) with purity >90%: MS (pos) m/z 425.3, 427.3; HRMS m/z 423.8737 (calc. of monoisotopic mass for C13 H7 Cl3 N2 O2 S3 gives 423.8735).

reactant | 4-(2-chlorophenyl)-1,3-thiazol-2-amine | 57 mg | ClC1=C(C=CC=C1)C=1N=C(SC1)N | C9H7ClN2S
reactant | 2,3-dichlorothiophene-5-sulfonyl chloride | 68 mg | ClC=1SC(=CC1Cl)S(=O)(=O)Cl | C4HCl3O2S2
product | 4,5-Dichloro-N-[4-(2-chlorophenyl)-1,3-thiazol-2-yl]-2-thiophenesulfonamide | ClC=1C=C(SC1Cl)S(=O)(=O)NC=1SC=C(N1)C1=C(C=CC=C1)Cl | C13H7Cl3N2O2S3
